* D:\74133\OneDrive - University of Edinburgh\Career\Internship\Spice\Spice\TIA.asc
XU1 N003 N002 V+ V- out LM6171A/NS
V1 V+ 0 15
V2 V- 0 -15
R1 N003 N001 1k
R2 N002 N001 1k
R3 out N002 1k
R4 0 N003 1k
V3 N001 0 1 sin(0 2e-3 1e6) AC 1
.include LM6171A.txt
.ac dec 40 1 1Meg
*.backanno
.end
