* Audio_AmpV3.asc
XU1 N001 N001 N002 0 out MCP6271
V1 N002 0 3.3
R2 N002 N001 200k
R3 N001 out 100k
C1 N001 out 440p
R4 N002 N001 1k
R5 N001 0 1k
C3 N001 0 440p
R1 N001 0 200k
*V2 N001 0 AC 1
.ac dec 40 1 1Meg
.include MCP6271.mod
.end
